US04296129
N-Decyl-3-(3-[cis-3-carboxypropenamido]phenyl)propenamide
A stirred mixture of 0.907 g. of N-decyl-3-(3-aminophenyl)propenamide and 25 ml. of benzene was heated on a steam bath until a solution was obtained. To this solution was then added 0.358 g. of maleic anhydride in one portion. In about 30 seconds a solid precipitated. The mixture was allowed to cool and then the solid was recovered by filtration. The solid was recrystallized from acetic acid, to give 1.1 g. (92% yeild) of the title compound, melting point 187°-188° C. The IR spectrum (KBr disc) showed absorptions at 3279, 2899, 1724, 1653, 1626, 1587 and 1563 cm-1. The NMR spectrum (in DMSO-d6) showed absorptions at 0.91 (m, 3H), 1.24 (s, 16H), 3.18 (m, 2H), 6.50 (m, 4H), 7.42 (m, 4H), 8.11 (m, 2H) and 10.50 (s, 1H) ppm.

reactant | N-decyl-3-(3-aminophenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)N)=O | C19H30N2O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Decyl-3-(3-[cis-3-carboxypropenamido]phenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)NC(\C=C/C(=O)O)=O)=O | C23H32N2O4
